US06768023B2
Ethylbenzene (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.2 mmol), and acetic acid (1 ml) were placed in a flask and were stirred at 100° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that acetophenone oxime, (1-nitroethyl)benzene, acetophenone, and α-methylbenzyl acetate were formed in yields of 32%, 5%, 23%, and 15%, respectively.

reactant | Ethylbenzene | 1 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.2 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | acetophenone oxime | C(C)(C1=CC=CC=C1)=NO | C8H9NO
reactant | (1-nitroethyl)benzene | [N+](=O)([O-])C(C)C1=CC=CC=C1 | C8H9NO2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | α-methylbenzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)C | C10H12O2
